US05064863
3.4 g of 5-(2-aminoethyl)-2-thiophenecarboxamide and 2.7 ml of 2,3-epoxypropyl phenyl ether were heated to 90° in 30 ml of dimethylsulfoxide for 18 hours. The reaction mixture was poured into water and extracted with methylene chloride. The dried methylene chloride solutions were evaporated and the residue was chromatographed on silica gel with ether-methanol. There were obtained 1.5 g of 5-[2-[bis-[(RS)-2-hydroxy-3-phenoxypropyl]amino]ethyl]-2-thiophenecarboxamide, ε277 =12580.

reactant | 5-(2-aminoethyl)-2-thiophenecarboxamide | 3.4 g | NCCC1=CC=C(S1)C(=O)N | C7H10N2OS
reactant | 2,3-epoxypropyl phenyl ether | 2.7 ml | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 5-[2-[bis-[(RS)-2-hydroxy-3-phenoxypropyl]amino]ethyl]-2-thiophenecarboxamide | 1.5 g | OC(CN(CCC1=CC=C(S1)C(=O)N)CC(COC1=CC=CC=C1)O)COC1=CC=CC=C1 | C25H30N2O5S
